US05922742
Step 1: 5-Bromo-2-methoxypyridine
To a solution of 2,5-dibromopyridine (1.4 g, 5.9 mmol) in DMF (10 mL) was added MeOH (4 mL), and 8N aqueous KOH (1 mL). The solution was heated to 100° C. for 2 h, then cooled and partitioned between Et2O and H2O. The organic layer was washed with brine, dried over MgSO4 and concentrated to provide 840 mg of the title compound, which was used in the next step without further purification.

reactant | 2,5-dibromopyridine | 5.9 mmol, 1.4 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | MeOH | 4 mL | CO | CH4O
reactant | KOH | 8N, 1 mL | [OH-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-methoxypyridine | 840 mg | BrC=1C=CC(=NC1)OC | C6H6BrNO
